US07700589B2
3f) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[1-(3,4-diethyl-benzyl)-2-(1′-methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl]-amide
0.3 mL of triethylamine, 323 mg (1.01 mmol) of TBTU, 155 mg (1.01 mmol) of HOBt and 184 mg (1.01 mmol) of methyl-[4,4′]bipiperidinyl were added to a solution of 500 mg (1.02 mmol) of 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid in 50 mL of THF and stirred for 4 h at RT and 2 h at 40° C. The reaction mixture was evaporated down, the residue was stirred with 40 mL of saturated NaHCO3 solution, the precipitated product was suction filtered, washed twice with water and triturated with EtOH. The white substance precipitated was suction filtered and washed twice with diethyl ether.

reactant | TBTU | 1.01 mmol, 323 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 1.01 mmol, 155 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methyl-[4,4′]bipiperidinyl | 1.01 mmol, 184 mg | CN1CCC(CC1)C1CCNCC1 | C11H22N2
reactant | 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 1.02 mmol, 500 mg | C(C)C=1C=C(C=CC1CC)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[1-(3,4-diethyl-benzyl)-2-(1′-methyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl]-amide | C(C)C=1C=C(CC(C(=O)N2CCC(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C39H56N6O3
